US04992459
1-(3-Trifluoromethyl-4-hydroxybenzyl)-2-mercaptoimidazole
A mixture of 1-(3'-trifluoromethyl-4'-methoxy- benzyl)-2-mercaptoimidazole (2.0 g) and pyridine hydrochloride (15 g) was melted at 210° for 30 minutes, cooled, diluted with water and extracted with ethyl acetate. The ethyl acetate extracts were treated with charcoal, dried over sodium sulfate and concentrated to give a thick oil. Addition of THF (3 ml), ether (6 ml), and hexane (15 ml) produced yellow crystals. Recrystallization from ethyl acetate/hexane yielded 0.7 g (37%) of cream colored crystals: mp 220° (dec).

reactant | 1-(3'-trifluoromethyl-4'-methoxy- benzyl)-2-mercaptoimidazole | 2.0 g | FC(C=1C=C(CN2C(=NC=C2)S)C=CC1OC)(F)F | C12H11F3N2OS
reactant | pyridine hydrochloride | 15 g | Cl.N1=CC=CC=C1
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | ether | 6 ml | CCOCC | C4H10O
solvent | water | O | H2O
solvent | hexane | 15 ml | CCCCCC | C6H14
product | 1-(3-Trifluoromethyl-4-hydroxybenzyl)-2-mercaptoimidazole | FC(C=1C=C(CN2C(=NC=C2)S)C=CC1O)(F)F | C11H9F3N2OS
